US07851463B2
134.3 4-(1-Benzyl-pyrrolidin-3-yl)-2-fluoro-phenylamine
1-Benzyl-3-(3-fluoro-4-nitro-phenyl)-pyrrolidine (550 mg, 1.83 mmol) was dissolved in methanol (30 ml), tin dichloride (3.125 g, 16.48 mmol) was added, and the reaction mixture stirred at reflux for 2 h. The methanol was evaporated, 1 N sodium hydroxide (60 ml) and ethyl acetate were added and stirring continued. The tin salts were filtered off, the organic phase was separated, dried over magnesium sulfate, filtered, and the solvent evaporated under reduced pressure to yield an oil (400 mg).

reactant | 1-Benzyl-3-(3-fluoro-4-nitro-phenyl)-pyrrolidine | 1.83 mmol, 550 mg | C(C1=CC=CC=C1)N1CC(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])F | C17H17FN2O2
reactant | tin dichloride | 16.48 mmol, 3.125 g | [Sn](Cl)Cl
solvent | methanol | 30 ml | CO | CH4O
product | 4-(1-Benzyl-pyrrolidin-3-yl)-2-fluoro-phenylamine | 400 mg | C(C1=CC=CC=C1)N1CC(CC1)C1=CC(=C(C=C1)N)F | C17H19FN2
